US04727080
Preparation of ethyl 6-fluoro-7-(pyrrol-1-yl)-1-formylamino-4-oxo-1,4-dihydroquinoline-3-carboxylate (step D-2)
A solution of 3.15 g (0.01 mol) of ethyl 6-fluoro-7-(pyrrol-1-yl)-1-amino-4-oxo-1,4-dihydroquinoline-3-carboxylate in 25 ml of formic acid is added dropwise to a mixture of 9.5 ml (0.01 mol) of acetic anhydride and 4 ml (0.01 mol) of formic acid, cooled to 0° C., the addition being carried out so as to maintain room temperature ±5° C. The mixture is kept at room temperature for48 hours and poured into a water/ice mixture, and the precipitate formed is filtered off, washed with water and recrystallized from a dimethylformamide/water mixture (1:1) to give a solid melting at 254°-257° C.

reactant | ethyl 6-fluoro-7-(pyrrol-1-yl)-1-amino-4-oxo-1,4-dihydroquinoline-3-carboxylate | 0.01 mol, 3.15 g | FC=1C=C2C(C(=CN(C2=CC1N1C=CC=C1)N)C(=O)OCC)=O | C16H14FN3O3
reactant | acetic anhydride | 0.01 mol, 9.5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | formic acid | 25 ml | C(=O)O | CH2O2
solvent | formic acid | 0.01 mol, 4 ml | C(=O)O | CH2O2
product | ethyl 6-fluoro-7-(pyrrol-1-yl)-1-formylamino-4-oxo-1,4-dihydroquinoline-3-carboxylate | FC=1C=C2C(C(=CN(C2=CC1N1C=CC=C1)NC=O)C(=O)OCC)=O | C17H14FN3O4
